US04436748
A solution of 6.23 g of 2,3-dichloro-4-methoxythiophenol in 60 ml of sieved-dried dimethylformamide is added to 0.75 g of sodium hydride over a period of 2-3 minutes. After stirring at room temperature for 20 minutes, the yellowish solution is treated with 5.10 g of benzyl bromide at a rate so that the temperature does not rise above 40°. Stirring is continued for an additional 30 minutes. The cloudy mixture is poured onto 200 g of crushed ice with caution and the white precipitate is collected on a filter after 1 hour at 10° C. The air-dried product is recrystallized from acetone-hexane to give 7.8 g of 4-benzylthio-2,3-dichloroanisole as white needles, mp 116°-117° C.

reactant | 2,3-dichloro-4-methoxythiophenol | 6.23 g | ClC1=C(C=CC(=C1Cl)OC)S | C7H6Cl2OS
reactant | sodium hydride | 0.75 g | [H-].[Na+]
reactant | benzyl bromide | 5.10 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 4-benzylthio-2,3-dichloroanisole | 7.8 g | C(C1=CC=CC=C1)SC1=C(C(=C(C=C1)OC)Cl)Cl | C14H12Cl2OS
